US06350749B1
To a solution of 20% sodium ethoxide in ethanol (6.2 g) were added at room temperature ethanol (150 ml) and diethyl malonate (14.6 g), and then added little by little 4-(2,5-dichlorophenyl)-3-buten-2-one (19.0 g). The mixture was stirred at room temperature for 30 minutes, refluxed for 2 hours and cooled. The solvent was evaporated, and to the residue was added water. The aqueous layer was washed with ethyl acetate and concentrated, and to the residue was added 2M sodium hydroxide (50 ml). The mixture was refluxed for 2 hours and cooled, and to the mixture was added 2.5M sulfuric acid (50 ml) for 15 minutes. The mixture was refluxed for 1.5 hours and cooled, and precipitated crystals were filtered and washed with water and toluene to give 5-(2,5-dichlorophenyl)cyclohexane-1,3-dione (9.9 g) as colorless crystals.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 14.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-(2,5-dichlorophenyl)-3-buten-2-one | 19.0 g | ClC1=C(C=C(C=C1)Cl)C=CC(C)=O | C10H8Cl2O
solvent | ethanol | 6.2 g | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-(2,5-dichlorophenyl)cyclohexane-1,3-dione | 9.9 g | ClC1=C(C=C(C=C1)Cl)C1CC(CC(C1)=O)=O | C12H10Cl2O2
